US06916804B2
[(6-{[2-(Acetylamino)ethyl]amino}-2-phenylpyrimidin-4-yl)amino](oxo)acetic acid (25)
Methyl [(6-{[2-(acetylamino)ethyl]amino}-2-phenylpyrimidin-4-yl)amino](oxo)acetate (10 mg) was dissolved in anhydrous THF (1.5 ml) and potassium trimethylsilanate (4 mg) added. The reaction was left for 3 hrs after which time a precipitate of the title compound was visible which was filtered (10 mg).

reactant | Methyl [(6-{[2-(acetylamino)ethyl]amino}-2-phenylpyrimidin-4-yl)amino](oxo)acetate | 10 mg | C(C)(=O)NCCNC1=CC(=NC(=N1)C1=CC=CC=C1)NC(C(=O)OC)=O | C17H19N5O4
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
product | [(6-{[2-(Acetylamino)ethyl]amino}-2-phenylpyrimidin-4-yl)amino](oxo)acetic acid | C(C)(=O)NCCNC1=CC(=NC(=N1)C1=CC=CC=C1)NC(C(=O)O)=O | C16H17N5O4
